US05618811
B. 1-Acetoxy-7-methylnaphthalene
To a 2 liter round-bottomed flask equipped with condenser and a nitrogen inlet were added 98.3 grams (0.552 mol) 4-(p-tolyl)butyric acid and 900 mL dry benzene. After the acid had dissolved, 132.6 mL (0.939 mol) trifluoroacetic anhydride was added dropwise over 35 minutes. The reaction was then refluxed for 20 hours (starting material confirmed to be consumed by thin layer chromatography (tlc), Rf 0.1 to 0.6 (DNP +ve) in 2/1 ethyl acetate (EtOAc)/hexane) cooled, and evaporated to remove most of the trifluoroacetic acid. The reside was taken up in ethyl acetate, washed with dilute aqueous ammonium hydroxide, water and brine, dried over sodium sulfate, and evaporated. The resulting solid was suitable for use in the next step.

reactant | 4-(p-tolyl)butyric acid | 0.552 mol, 98.3 grams | C1(=CC=C(C=C1)CCCC(=O)O)C | C11H14O2
reactant | trifluoroacetic anhydride | 0.939 mol, 132.6 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | benzene | 900 mL | C1=CC=CC=C1 | C6H6
product | 1-Acetoxy-7-methylnaphthalene | C(C)(=O)OC1=CC=CC2=CC=C(C=C12)C | C13H12O2
